US05607939
1,2,3,4-Tetrahydro-2-methyl-4-phenyl-4-[3-(phenylureido]propyl]isoquinoline
To a solution of 4-(3-aminopropyl)-2-methyl-4-phenyl-1,2,3,4-tetrahydroisoquinoline (0.4 g) in chloroform (10 ml) was added phenyl isocyanate (0.25 g) and the mixture was stirred at room temperature for 1.5 hours. The reaction mixture was concentrated to dryness and the residue was crystallized from methanolisopropyl ether to provide the title compound (0.39 g) as colorless powder.

reactant | 4-(3-aminopropyl)-2-methyl-4-phenyl-1,2,3,4-tetrahydroisoquinoline | 0.4 g | NCCCC1(CN(CC2=CC=CC=C12)C)C1=CC=CC=C1 | C19H24N2
reactant | phenyl isocyanate | 0.25 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,2,3,4-Tetrahydro-2-methyl-4-phenyl-4-[3-(phenylureido]propyl]isoquinoline | 0.39 g | CN1CC2=CC=CC=C2C(C1)(CCCNC(=O)NC1=CC=CC=C1)C1=CC=CC=C1 | C26H29N3O
